US06664412B2
Methyl 4-methyl-4-nitropentanoate
2-Nitropropane (25 g, 0.28 mol) was dissolved in ethanol (140 ml) and methyl acrylate (25.3 ml, 0.28 mol) and potassium fluoride (1.63 g, 0.028 mol) were added. The mixture was refluxed under heating for 4 h. After cooling, ethanol was evaporated by concentration under reduced pressure, and the residue was extracted with ethyl acetate (100 ml) and water (50 ml). Ethyl acetate was evaporated under reduced pressure to give the objective compound (40.6 g, yield 82.5%).

reactant | 2-Nitropropane | 0.28 mol, 25 g | [N+](=O)([O-])C(C)C | C3H7NO2
reactant | methyl acrylate | 0.28 mol, 25.3 ml | C(C=C)(=O)OC | C4H6O2
reactant | potassium fluoride | 0.028 mol, 1.63 g | [F-].[K+]
solvent | ethanol | 140 ml | C(C)O | C2H6O
product | Methyl 4-methyl-4-nitropentanoate | 40.6 g, yield 82.5% | CC(CCC(=O)OC)(C)[N+](=O)[O-] | C7H13NO4
